### PR TITLE
[Merged by Bors] - feat(Order): `LTSeries` can be extended to `CovBy`-`RelSeries`

### PR DESCRIPTION
**Pull request by erdOne**
Co-authored-by: Junyan Xu

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
Judging from `Import changes for all files`, the increase should be fine.

File: Mathlib/Order/OrderIsoNat.lean [hunk 1]
```diff
@@ -292,3 +292,14 @@ theorem exists_covBy_seq_of_wellFoundedLT_wellFoundedGT (α) [Preorder α]
     by_contra!
     exact (RelEmbedding.natGT a fun n ↦ (cov n (this n)).1).not_wellFounded_of_decreasing_seq wfg.wf
   exact ⟨_, wellFounded_lt.min_mem _ H, fun i h ↦ cov _ fun h' ↦ wellFounded_lt.not_lt_min _ H h' h⟩
+
+theorem exists_covBy_seq_of_wellFoundedLT_wellFoundedGT_of_le {α : Type*} [PartialOrder α]
+    [wfl : WellFoundedLT α] [wfg : WellFoundedGT α] {x y : α} (h : x ≤ y) :
```
Comment (b-mehta) [inline Mathlib/Order/OrderIsoNat.lean:297]: Are there interesting orders that show up which are well founded in both directions? It seems to me that they're all disjoint unions of finite orders, and so `h : x <= y` means you can restrict to one of these finite suborders anyway

Comment (erdOne) [reply Mathlib/Order/OrderIsoNat.lean:297]: Perhaps the ideal lattice of any artinian ring (e.g. $$\mathbb{Q}[x, y]/(x^2, xy, y^2)$$).

Comment (b-mehta) [reply Mathlib/Order/OrderIsoNat.lean:297]: Ah! Right, they don't have to be a disjoint union; they're just posets of finite height.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/Order/RelSeries.lean [hunk 2]
```diff
@@ -778,6 +779,53 @@ def range (n : ℕ) : LTSeries ℕ where
 
 @[simp] lemma last_range (n : ℕ) : (range n).last = n := rfl
 
+/-- Any `LTSeries` can be refined to a `CovBy`-`RelSeries`
+in a bidirectionally well-founded order. -/
+theorem exists_relSeries_covBy
+    {α} [PartialOrder α] [WellFoundedLT α] [WellFoundedGT α] (s : LTSeries α) :
+    ∃ (t : RelSeries (α := α) (· ⋖ ·)) (i : Fin (s.length + 1) ↪ Fin (t.length + 1)),
+      t ∘ i = s ∧ i 0 = 0 ∧ i (.last _) = .last _ := by
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/Order/RelSeries.lean:754]: Thanks! I've merged the branch. As for sublist, I think it wouldn't be cleaner because it is hard to express "preserves first and last element", and we would need to translate back to `RelSeries` anyway.

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Order/RelSeries.lean:809]: Good point, indeed!

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
